US07858621B2
Step 1: 3-(2-Isopropylthio-6-trifluoromethyl-pyridin-3-yl)-acrylic acid
3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid (245 mg, 0.974 mmol) was reacted with 2-propanthiol (240 mg, 3.15 mmol) and sodium hydride (143 mg, 3.56 mmol) to afford the title compound (103 mg) after purification by column chromatography (Hex/EtOAc=2.5/1).

reactant | 3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid | 0.974 mmol, 245 mg | ClC1=NC(=CC=C1C=CC(=O)O)C(F)(F)F | C9H5ClF3NO2
reactant | 2-propanthiol | 3.15 mmol, 240 mg | CC(C)S | C3H8S
reactant | sodium hydride | 3.56 mmol, 143 mg | [H-].[Na+]
product | 3-(2-Isopropylthio-6-trifluoromethyl-pyridin-3-yl)-acrylic acid | 103 mg | C(C)(C)SC1=NC(=CC=C1C=CC(=O)O)C(F)(F)F | C12H12F3NO2S
